// 3-stage SVT inverter ring oscillator.
simulator lang=spectre
global 0
parameters vdd=1.0

include "${PDK_ROOT}/models/spectre/crn28ull_model.scs" section=pre_simu
include "${PDK_ROOT}/models/spectre/crn28ull_model.scs" section=ttmacro_mos_moscap
include "../../common/stdcell_netlist/tcbn28hpcplusbwp12t30p140_170a.spi"

VDD (vdd 0) vsource dc=vdd
X0 (n3 n1 vdd 0) INVD0BWP12T30P140
X1 (n1 n2 vdd 0) INVD0BWP12T30P140
X2 (n2 n3 vdd 0) INVD0BWP12T30P140
C1 (n1 0) capacitor c=1f
C2 (n2 0) capacitor c=1f
C3 (n3 0) capacitor c=1f

ic n1=1 n2=0 n3=0
simulatorOptions options psfversion="1.4.0" temp=27 tnom=27 maxnotes=5 maxwarns=5
tran tran stop=1n maxstep=2p skipdc=yes annotate=status
save n1 n2 n3 vdd
saveOptions options save=allpub
